US06569878B1
(4-Amino-phenyl)-(4-amino-2-phenylamino-thiazol-5-yl)-methanone
The title compound was prepared in a manner like that described for Example D(1). Catalytic reduction of the title compound of Example A(2) ((4-nitro-phenyl)-(4-amino-2-phenylamino-thiazol-5-yl)-methanone) provided, after recrystallization from ethanol, 410 mg (90% yield) of red amorphous powder, mp >300° C.

reactant | (4-nitro-phenyl)-(4-amino-2-phenylamino-thiazol-5-yl)-methanone | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C1=C(N=C(S1)NC1=CC=CC=C1)N | C16H12N4O3S
solvent | ethanol | C(C)O | C2H6O
product | (4-Amino-phenyl)-(4-amino-2-phenylamino-thiazol-5-yl)-methanone | NC1=CC=C(C=C1)C(=O)C1=C(N=C(S1)NC1=CC=CC=C1)N | C16H14N4OS
